US06133303
2-(4-Bromo-thiophen-2-ylmethylene)-6-(2-imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one
According to the method of Example 4, 6-(2-imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one (0.252 g, 0.98 mmol) was reacted with 4-bromothiophene-2-carboxaldehyde (0.282 g, 1.5 mmol) in 5 mL of 4% KOH in EtOH to afford 0.181 g (43%) of the title compound as a light tan powder, mp 164-166° C.: CI-MS m/e 428, 430 (M+); 429, 431 (M+ +1); 1H-NMR (CDCl3): δ 8.03 (1H, d, J=8.8 Hz), 7.82 (1H, s), 7.58 (1H, s), 7.33 (1H, s), 7.20 (1H, s), 7.05 (1H, s), 7.01 (1H, s), 6.80 (1H, dd, J=8.8 Hz, J=2.4 Hz), 6.66 (1H, d, J=2.2 Hz), 4.34 (2H, m), 4.25 (2H, m), 3.10 (2H, m), 2.93 (2H, m).

reactant | 6-(2-imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one | 0.98 mmol, 0.252 g | N1(C=NC=C1)CCOC=1C=C2CCCC(C2=CC1)=O | C15H16N2O2
reactant | 4-bromothiophene-2-carboxaldehyde | 1.5 mmol, 0.282 g | BrC=1C=C(SC1)C=O | C5H3BrOS
solvent | KOH | 5 mL | [OH-].[K+]
solvent | EtOH | CCO | C2H6O
product | 2-(4-Bromo-thiophen-2-ylmethylene)-6-(2-imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one | 0.181 g, 43% | BrC=1C=C(SC1)C=C1C(C2=CC=C(C=C2CC1)OCCN1C=NC=C1)=O | C20H17BrN2O2S
